US07645755B2
The title compound was then prepared according to Suzuki coupling procedure of Example 12, step (d) using cyclohex-1-enyl boronic acid (27.9 mg, 1.00 mmol) and 2-bromo-4-(1-methoxy-1,2,3,6-tetrahydro-pyridin-4-yl)-phenylamine (as prepared above, 44 mg, 0.15 mmol) and chromatographed on silica (20-50% EtOAc/hexanes) afforded 2-cyclohex-1-enyl-4-(1-methoxy-piperidin-4-yl)-phenylamine (33 mg, 74%). Mass spectrum, (ESI, m/z): Calcd. for C18H26N2O, 287.2 (M+H), found 286.8.

reactant | cyclohex-1-enyl boronic acid | 1.00 mmol, 27.9 mg | C1(=CCCCC1)B(O)O | C6H11BO2
reactant | 2-bromo-4-(1-methoxy-1,2,3,6-tetrahydro-pyridin-4-yl)-phenylamine | 0.15 mmol, 44 mg | BrC1=C(C=CC(=C1)C=1CCN(CC1)OC)N | C12H15BrN2O
product | 2-cyclohex-1-enyl-4-(1-methoxy-piperidin-4-yl)-phenylamine | 33 mg, 74% | C1(=CCCCC1)C1=C(C=CC(=C1)C1CCN(CC1)OC)N | C18H26N2O
